US08034747B2
The starting material, about 10 mmol of 3-acetyl-trifluoroacetylaminobenzene was gradually added to about 20 ml of concentrated H2SO4 at about −20° C., and then stirred for about 30 minutes. Then, nitric acid was added for about 10 minutes. The solution was stirred for about 2 hours. After the reaction was completed, the solution was poured into ice water. An organic layer was extracted twice from the ice water with about 50 mL ethyl acetate, and was washed with sodium hydrogen carbonate solution. And then the organic layer was dried with sodium sulfate anhydride, and distilled under reduced pressure to remove ethyl acetoacetate. Concentrated NH4OH was added, and the solution was stirred at about 50° C. for about 1 hour. Then, the solution was evaporated using a rotary. Extraction was performed with EtOAc and water. Then, 3-acetyl-4-nitro-aminobenzene was obtained in a form of about 54% brown solid using silica gel column chromatography (Hexane/EtOAc=3/1).

reactant | 3-acetyl-trifluoroacetylaminobenzene | about 10 mmol | C(C)(=O)C=1C=C(C=CC1)NC(C(F)(F)F)=O | C10H8F3NO2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | about 20 ml | OS(=O)(=O)O | H2O4S
product | 3-acetyl-4-nitro-aminobenzene | C(C)(=O)C=1C=C(C=CC1[N+](=O)[O-])N | C8H8N2O3
